US06136821
B. 6-Amino-8-bromo-1,7-naphthyridine
Through a stirred solution of 2-Cyano-3-pyridylacetonitrile (3.6 g, 0.025 mol) in toluene (80 ml) is bubbled HBr for 5 h. Then, 4N NaOH is carefully added and the suspension stirred vigorously. The mixture is filtered and the product washed with water and dried. Crystallisation from toluene affords the title compound. Mass M+H 225. Melting point 188° C., decomposition.

reactant | 2-Cyano-3-pyridylacetonitrile | 0.025 mol, 3.6 g | C(#N)C1=NC=CC=C1CC#N | C8H5N3
reactant | HBr | Br | BrH
reactant | NaOH | 4N | [OH-].[Na+]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Amino-8-bromo-1,7-naphthyridine | NC=1C=C2C=CC=NC2=C(N1)Br | C8H6BrN3
